US05582764
44.5 g (0.1 mol) of 4-(trans-4-(2-bromoethyl)cyclohexyl)-3'-fluoro-4'-trifluoromethoxybiphenyl was dripped into a mixture of 2.5 g (0.11 mol) of magnesium and 300 ml of THF to obtain a Grignard's reagent. This solution was then dripped into a 500 ml THF solution of 20.5 g (0.1 mol) of 1-chloro-1-n-pentyl-silacyclohexane. After a conventional after treatment, 4-(trans-4-(2-(trans-4-n-pentyl-4-silacyclohexyl)ethyl)cyclohexyl)-3'-fluoro-4'-trifluoromethoxybiphenyl was obtained. The silacyclohexane rings of the product were a mixture of trans isomers and cis isomers. They were separated by means of chromatography to obtain 44.9 g (yield 84.1%) of the trans isomer.

reactant | 4-(trans-4-(2-bromoethyl)cyclohexyl)-3'-fluoro-4'-trifluoromethoxybiphenyl | 0.1 mol, 44.5 g | BrCC[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC(=C(C=C1)OC(F)(F)F)F | C21H21BrF4O
reactant | magnesium | 0.11 mol, 2.5 g | [Mg] | Mg
reactant | 1-chloro-1-n-pentyl-silacyclohexane | 0.1 mol, 20.5 g | Cl[Si]1(CCCCC1)CCCCC | C10H21ClSi
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 4-(trans-4-(2-(trans-4-n-pentyl-4-silacyclohexyl)ethyl)cyclohexyl)-3'-fluoro-4'-trifluoromethoxybiphenyl | yield 84.1% | C(CCCC)[Si@@H]1CC[C@H](CC1)CC[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC(=C(C=C1)OC(F)(F)F)F | C31H42F4OSi
